US08349824B2
A mixture of 1-methyl-5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid (4.5 g, 12.4 mmol), azetidine (2.53 ml, 37.3 mmole), N-diisopropylethylamine (6.51 ml, 37.3 mmol) and propylphosphonic anhydride (50% in ethyl acetate, 18.3 ml, 31 mmol) in tetrahydrofurane (220 ml) is stirred for 2 hours at 70° C. The turbid solution is concentrated to about 100 ml, cooled, poured on cooled sat. aqueous sodium bicarbonate solution (1000 ml) and the suspension is stirred for 20 minutes. The solid is collected by filtration, washed with little water and dried affording 4-(azetidine-1-carbonyl)-2-methyl-2H-pyrazole-3-carboxylic acid (2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-amide (5 g, 100%) as a white solid. mp.: 243-5° C. MS: m/z=402.3 (M+H+).

reactant | 1-methyl-5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid | 12.4 mmol, 4.5 g | CN1N=CC(=C1C(NC1=CC=2N(C=C1)N=C(N2)C2=CC=CC=C2)=O)C(=O)O | C18H14N6O3
reactant | azetidine | 37.3 mmole, 2.53 ml | N1CCC1 | C3H7N
reactant | propylphosphonic anhydride | 31 mmol, 18.3 ml | CCCP(=O)=O | C3H7O2P
solvent | tetrahydrofurane | 220 ml | O1CCCC1 | C4H8O
product | 4-(azetidine-1-carbonyl)-2-methyl-2H-pyrazole-3-carboxylic acid (2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-amide | 5 g, 100% | C1(=CC=CC=C1)C1=NN2C(C=C(C=C2)NC(=O)C=2N(N=CC2C(=O)N2CCC2)C)=N1 | C21H19N7O2
